US05378849
(i) To 1.15 g of (R)-(-)-N-acetyl-7,8-dihydroxy-4-(3,4-dihydroxyphenyl)-1,2,3,4-tetrahydroisoquinoline 1/4hydrate were added 9 ml of 3N hydrochloric acid and 9 ml of ethanol, and the mixture was heated under an argon gas stream for 24 hours. After the reaction solution was cooled, the crystals which separated out were collected by filtration, affording 1.09 g (R)-(+)-7,8-dihydroxy-4-(3,4-dihydroxyphenyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride monohydrate. [α]D20 =+15° (C=1, CH3OH)

reactant | (R)-(-)-N-acetyl-7,8-dihydroxy-4-(3,4-dihydroxyphenyl)-1,2,3,4-tetrahydroisoquinoline | 1.15 g | C(C)(=O)N1CC2=C(C(=CC=C2[C@H](C1)C1=CC(=C(C=C1)O)O)O)O | C17H17NO5
reactant | hydrochloric acid | 3N, 9 ml | Cl | ClH
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | (R)-(+)-7,8-dihydroxy-4-(3,4-dihydroxyphenyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride monohydrate | 1.09 g | O.Cl.OC1=CC=C2[C@H](CNCC2=C1O)C1=CC(=C(C=C1)O)O | InChI=1S/C15H15NO4.ClH.H2O/c17-12-3-1-8(5-14(12)19)10-6-16-7-11-9(10)2-4-13(18)15(11)20;;/h1-5,10,16-20H,6-7H2;1H;1H2/t10-;;/m1../s1
